US08871767B2
5-(6-chloroimidazo[2,1-f]pyridazin-2-yl)-2-methyl-aniline
Iron (1.34 g) is added to a mixture of 6-chloro-2-(4-methyl-3-nitro-phenyl)imidazo[2,1-f]pyridazine (1.15 g, 0.004 mol) and EtOH—AcOH (120 mL, 2:1). The mixture is stirred at 80° C. for 2 hours, cooled to room temperature, filtered through celite which is washed with EtOAc, and concentrated. The oily residue is dissolved in EtOAc (500 mL) and washed once with sat. NaHCO3 (200 mL). Organic layer is dried and concentrated to give the title compound (0.85 g, 82%), which is used without further purification. LCMS m/z=259.4 [M+H]+, tR=1.64 min.

reactant | 6-chloro-2-(4-methyl-3-nitro-phenyl)imidazo[2,1-f]pyridazine | 0.004 mol, 1.15 g | ClC1=NN2C(C=C1)=NC(=C2)C2=CC(=C(C=C2)C)[N+](=O)[O-] | C13H9ClN4O2
catalyst | Iron | 1.34 g | [Fe] | Fe
solvent | EtOH AcOH | 120 mL | CCO.CC(=O)O
product | 5-(6-chloroimidazo[2,1-f]pyridazin-2-yl)-2-methyl-aniline | 0.85 g, 82% | ClC1=NN2C(C=C1)=NC(=C2)C=2C=CC(=C(N)C2)C | C13H11ClN4
